US07622479B2
To tert-butyl [2-(3-methoxyphenyl)-6-phenyl-1H-imidazo[4,5-b]pyridin-1-yl]acetate (209 mg) was added a solution of 4 N hydrogen chloride in ethyl acetate (8.0 ml), and the mixture was stirred at room temperature for 5 hours to hydrolyze. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over MgSO4, and the solvent was distilled off under reduced pressure. The resulting crystals were collected by filtration to obtain [2-(3-methoxyphenyl)-6-phenyl-1H-imidazo[4,5-b]pyridin-1-yl]acetic acid (129 mg, 43%).

reactant | tert-butyl [2-(3-methoxyphenyl)-6-phenyl-1H-imidazo[4,5-b]pyridin-1-yl]acetate | 209 mg | COC=1C=C(C=CC1)C=1N(C=2C(=NC=C(C2)C2=CC=CC=C2)N1)CC(=O)OC(C)(C)C | C25H25N3O3
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | water | O | H2O
solvent | ethyl acetate | 8.0 ml | C(C)(=O)OCC | C4H8O2
product | [2-(3-methoxyphenyl)-6-phenyl-1H-imidazo[4,5-b]pyridin-1-yl]acetic acid | 129 mg, 43% | COC=1C=C(C=CC1)C=1N(C=2C(=NC=C(C2)C2=CC=CC=C2)N1)CC(=O)O | C21H17N3O3
